Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
right putaminal hemorrhage
 
Major Surgical or Invasive Procedure:
MRI

 
History of Present Illness:
Mr. ___ is an ___ old right handed male with h/o 
hypertension,
hyperlipidemia, CAD s/p CABG now presenting with sudden onset
headache, left arm weakness found to have a right putaminal
hemorrhage. Pt was well until this afternoon around 2pm when at
lunch with his son developed the above symptoms. Taken to
___ where his exam was notable for "right sided weakness."
Patient was apparently fully alert and conversant. He vomited in
the CT scan at the OSH and was intubated. Head CT revealed right
putaminal hemorrhage. Following intubation his blood pressures
dropped requiring two pressors. He was transferred to ___ via
medflight for further care. 

Pt was unable to offer a ROS. According to his son he was seen 
at
___ ~2 weeks ago for nephrolithiasis. He is somewhat
sedentary at baseline, but independent of all ADL's.

 
Past Medical History:
CAD- s/p CABG in ___
Pulmonary HTN
systolic HF- EF 35%
Hypertension
hyperlipidemia
nephrolithiasis

 
Social History:
___
Family History:
NC

 
Physical Exam:
Vitals: T 98, BP 125/54 (on levophed), HR 59, R 14, 100% CMV
Gen- ill appearing, intubated and sedation (recently rec'd
fentanyl from medflight)
HEENT- NCAT, anicteric sclera, MMM
Neck- no carotid bruits
CV- RRR
Pulm- CTA B
Abd- soft, nt, nd, BS+
Extrem- no CCE

Neurologic exam:
MS- opens eyes to voice, does not follow commands. localizes
sternal rub with right hand.

CN- PERRL 4-->3mm, blinks to visual threat bilat, intact 
corneals
bilat, intact gag.

Motor/sensory- moving right arm and leg spontaneously,
purposefully withdraws right arm, leg and left leg to noxious. 
no
withdrawal or left arm to noxoious stim.

Reflexes: left patellar 3+, bi, brachiorad 3+ on left, right 
with
2+ patell, bi, tri. absent ankles.

Plantar response was upgoing bilaterally.

 
Pertinent Results:
___ 05:48AM BLOOD WBC-10.9 RBC-4.22* Hgb-13.7* Hct-38.4* 
MCV-91 MCH-32.3* MCHC-35.6* RDW-13.4 Plt ___
___ 06:28AM BLOOD WBC-8.9 RBC-4.53* Hgb-13.9* Hct-41.1 
MCV-91 MCH-30.7 MCHC-33.8 RDW-13.9 Plt ___
___ 05:55AM BLOOD WBC-8.0 RBC-4.41* Hgb-13.9* Hct-39.7* 
MCV-90 MCH-31.6 MCHC-35.1* RDW-13.8 Plt ___
___ 12:53AM BLOOD WBC-12.6* RBC-4.30* Hgb-13.7* Hct-38.9* 
MCV-91 MCH-31.9 MCHC-35.2* RDW-14.1 Plt ___
___ 03:55AM BLOOD WBC-11.0 RBC-4.16* Hgb-13.4* Hct-38.8* 
MCV-93 MCH-32.3* MCHC-34.6 RDW-13.5 Plt ___
___ 06:15PM BLOOD WBC-11.8* RBC-4.68 Hgb-14.7 Hct-43.4 
MCV-93 MCH-31.4 MCHC-33.9 RDW-13.7 Plt ___
___ 06:20AM BLOOD ___ PTT-24.2 ___
___ 12:53AM BLOOD ___ PTT-25.3 ___
___ 05:48AM BLOOD Glucose-149* UreaN-17 Creat-0.9 Na-147* 
K-3.2* Cl-115* HCO3-25 AnGap-10
___ 06:28AM BLOOD Glucose-122* UreaN-16 Creat-0.9 Na-148* 
K-3.4 Cl-113* HCO3-23 AnGap-15
___ 05:55AM BLOOD Glucose-120* UreaN-17 Creat-0.9 Na-143 
K-3.4 Cl-110* HCO3-23 AnGap-13
___ 06:20AM BLOOD Glucose-100 UreaN-17 Creat-0.9 Na-144 
K-3.8 Cl-107 HCO3-25 AnGap-16
___ 08:26AM BLOOD Glucose-147* UreaN-19 Creat-0.9 Na-141 
K-3.7 Cl-108 HCO3-25 AnGap-12
___ 12:53AM BLOOD Glucose-98 UreaN-16 Creat-1.1 Na-142 
K-3.7 Cl-109* HCO3-25 AnGap-12
___ 03:55AM BLOOD Glucose-112* UreaN-21* Creat-1.1 Na-140 
K-4.4 Cl-109* HCO3-22 AnGap-13
___ 05:48AM BLOOD Calcium-8.4 Phos-2.4* Mg-2.1
___ 03:55AM BLOOD %HbA1c-6.0*
___ 03:55AM BLOOD Triglyc-48 HDL-44 CHOL/HD-2.9 LDLcalc-75

CT Head ___ basal ganglia hemorrhage with mild 
surrounding edema. No herniation or hydrocephalus. 
CT ABD: 1. Three nonobstructing left renal calculi ranging in 
size between 4 mm and 2 cm. Multiple bladder diverticula. 2. 
Cholelithiasis.   
3. Findings consistent with prior myocardial infarction at the 
aex of the 
left ventricle. 4. Small hiatal hernia. 

CT HEAD ___: Unchanged size and appearance of right basal 
ganglia intraparenchymal hemorrhage. No new blood or 
intraventricular extension. No subfalcine herniation. 

 
Brief Hospital Course:
Pt was admitted to the ICU initially for close monitoring.  His 
hemorrahge is thought to be due to hypertension.  He had serial 
imaging with no change in size of hemorrage.  He was monitored 
with frequnet neuro-checks and cardiac telemtery.  He was stable 
and sent to the neurology floor.  He developed hematuria and an 
CT-abd revieled non-occlusive renal stones.  He failed multiple 
speech evaluations and a PEG was placed in ___ without 
difficulty.  ___ were consulted.  He was noted to have an UA 
suspicious for UTI despite 3 days of IV cipro and was thus 
changed to IV ceftriazone for 5 day course.  Repeat urine cx is 
pending at discharge.  He will follow-up with Dr. ___ as an 
___.
 
Medications on Admission:
Proscar daily
Folic acid 1mg daily
Folguard  ? strength
Atorvastatin 20mg daily
Metoprolol 75mg QAM, 50mg qnoon, 50mg QHS
Persantine 150mg daily
Imdur 60mg daily QHS
Lisinopril ___ gdaily
Aspirin 325mg daily
Amlodipine 5mg daily

 
Discharge Medications:
1. Letter
To whom it may concern,
___ is under my medical care at ___ 
___. Due to his current condition, he is unable to 
sign his name or write, or otherwise communicate.

Sincerely,
___
2. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. Atorvastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed.  
5. Docusate Sodium  Oral
6. Metoprolol Tartrate 25 mg Tablet Sig: 0.5 Tablet PO TID (3 
times a day).  
7. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed.  
8. Famotidine 20 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
9. Polyethylene Glycol 3350 100 % Powder Sig: One (1)  PO DAILY 
(Daily).  
10. Trimethoprim-Sulfamethoxazole 160-800 mg Tablet Sig: One (1) 
Tablet PO BID (2 times a day) for 3 days.  
11. CeftriaXONE 1 g IV Q24H Duration: 5 Days 

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
___ - ___
 
Discharge Diagnosis:
Cerebral Hemorrhage R Putamen

 
Discharge Condition:
Left upper extremity paresis, left neglect

 
Discharge Instructions:
You were admitted because of a bleed in your brain.  It was 
likely due to high blood pressure. If you have any new weakness 
or numbness you should return to the ER.
 
Followup Instructions:
___